US08071581B2
Step 1: Preparation of (3-bromo-7-fluoro-quinolin-6-yl)-acetic acid methyl ester
To a mixture of (7-fluoro-quinolin-6-yl)-acetic acid methyl ester (14.0 g, 63.9 mmol) and pyridine (10.4 mL, 127.8 mmol) in 200 mL of carbon tetrachloride was added bromine (6.6 mL, 127.8 mmol) in a dropwise fashion. The mixture was heated to reflux for 2 hrs before being cooled to ambient temperature. The liquid in the flask was decanted and washed with NaHCO3 and water. The dark solid on the bottom of the flask was treated with NaHCO3 and dichloromethane. The combined organic layers were washed with water, dried (Na2SO4) and evaporated to dryness. The crude product was purified via flash column chromatography eluting with petroleum ether/ethyl acetate (40/1˜3/1) to return 13.9 g (75% yield) of the title compound as white crystalline solid. 1H NMR (DMSO-d6): δ 8.89 (s, 1H), 8.27 (m, 1H), 7.66˜7.74 (m, 2H), 3.87 (s, 2H), 3.74 (s, 3H).

reactant | (7-fluoro-quinolin-6-yl)-acetic acid methyl ester | 63.9 mmol, 14.0 g | COC(CC=1C=C2C=CC=NC2=CC1F)=O | C12H10FNO2
reactant | pyridine | 127.8 mmol, 10.4 mL | N1=CC=CC=C1 | C5H5N
reactant | bromine | 127.8 mmol, 6.6 mL | BrBr | Br2
solvent | carbon tetrachloride | 200 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | (3-bromo-7-fluoro-quinolin-6-yl)-acetic acid methyl ester | 13.9 g, 75% yield | COC(CC=1C=C2C=C(C=NC2=CC1F)Br)=O | C12H9BrFNO2
